US09371320B2
C) 7-methoxy-3-phenyl-1H-pyrazolo[3,4-c]pyridine
To a solution of 4-benzyl-2-methoxypyridin-3-amine (8.8 g) in acetic acid (310 mL) was added an aqueous solution prepared by dissolving sodium nitrite (2.83 g) in water (15.5 mL) at 0° C., and the mixture was stirred at 0° C. for 10 min, and then overnight at room temperature. The reaction mixture was concentrated under reduced pressure, to the residue was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from ethanol and hexane to give the title compound (5.2 g).

reactant | 4-benzyl-2-methoxypyridin-3-amine | 8.8 g | C(C1=CC=CC=C1)C1=C(C(=NC=C1)OC)N | C13H14N2O
reactant | sodium nitrite | 2.83 g | N(=O)[O-].[Na+]
solvent | acetic acid | 310 mL | C(C)(=O)O | C2H4O2
solvent | water | 15.5 mL | O | H2O
product | 7-methoxy-3-phenyl-1H-pyrazolo[3,4-c]pyridine | 5.2 g | COC=1N=CC=C2C1NN=C2C2=CC=CC=C2 | C13H11N3O
